US07135466B2
2-Methylbenzyl N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}carbamate
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline (50 mg) was added to toluene (5 ml), and triethylamine (0.5 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (68 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, (2-methylphenyl)methanol (28 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution, water, and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (62 mg, yield 75%).

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 50 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triphosgene | 68 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (2-methylphenyl)methanol | 28 mg | CC1=C(C=CC=C1)CO | C8H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methylbenzyl N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}carbamate | 62 mg, yield 75% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(OCC1=C(C=CC=C1)C)=O | C25H22ClN3O5
